US07205304B2
A mixture of 4-(hexahydro-1H-1,4-diazepin-1-yl)-benzoic acid, ethyl ester hydrochloride (1:2) (0.01 mol) and 2-naphthalenesulfonyl chloride (0.011 mol) in DCM p.a. (150 ml) was stirred at room temperature. NaHCO3 (saturated aqueous solution, 50 ml) was added and the reaction mixture was stirred for 4 hours at room temperature. The layers were separated. The organic layer was dried, filtered and the solvent evaporated. The residue was triturated under 2-propanol, filtered off and dried, yielding 4.5 g (quantitative yield) of 4-[hexahydro-4-(2-naphthalenylsulfonyl)-1H-1,4-diazepin-1-yl]-benzoic acid, ethyl ester (interm. 1).

reactant | 4-(hexahydro-1H-1,4-diazepin-1-yl)-benzoic acid, ethyl ester hydrochloride | 0.01 mol | Cl.N1(CCNCCC1)C1=CC=C(C(=O)OCC)C=C1
reactant | 2-naphthalenesulfonyl chloride | 0.011 mol | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[hexahydro-4-(2-naphthalenylsulfonyl)-1H-1,4-diazepin-1-yl]-benzoic acid, ethyl ester | 4.5 g, quantitative yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCN(CCC1)C1=CC=C(C(=O)OCC)C=C1 | C24H26N2O4S
